US04958037
Methyl 7-(4-hydroxycyclopent-2-en-1-on-2-yl)-5-heptynoate
A stirred mixture of 5.8 g of 7-(4-hydroxycyclopent-2-en-1-on-2-yl)-5-heptynoic acid, 3.95 g of potassium carbonate, 7.4 g of iodomethane and 52 ml of acetone was refluxed for 2.5 hours. Most of the acetone was evaporated and the residue was partitioned with water and ether. The ether layer was separated, washed with brine, dried and concentrated, giving 5.02 g of the desired compound as an oil; PMR δ 3.72 (3H, s, methyl ester).

reactant | 7-(4-hydroxycyclopent-2-en-1-on-2-yl)-5-heptynoic acid | 5.8 g | OC1C=C(C(C1)=O)CC#CCCCC(=O)O | C12H14O4
reactant | potassium carbonate | 3.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 7.4 g | IC | CH3I
solvent | acetone | 52 ml | CC(=O)C | C3H6O
product | Methyl 7-(4-hydroxycyclopent-2-en-1-on-2-yl)-5-heptynoate | 5.02 g | OC1C=C(C(C1)=O)CC#CCCCC(=O)OC | C13H16O4
